US06951879B2
In analogy to example 27.1, 3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-ol and 1,3-dibromopropane were converted to yield 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene, MS: 364 (M, 1Br).

reactant | 3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-ol | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)O | C14H9FOS
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C17H14BrFOS
